US04587247
Following the procedure of Example 3, benzyloxyethanol is reacted with paraformaldehyde and hydrogen chloride gas furnishing (2-benzyloxyethoxy)methyl chloride.

reactant | benzyloxyethanol | C(C1=CC=CC=C1)OC(C)O | C9H12O2
reactant | paraformaldehyde | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
product | (2-benzyloxyethoxy)methyl chloride | C(C1=CC=CC=C1)OCCOCCl | C10H13ClO2
